US06869954B2
Preparation of 6-(3-fluoro-4-methylphenyl)-2-isobutyl-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one dihydrochloride
To a solution of 6-(3-fluoro-4-methylphenyl)-2-isobutyl-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one (94.4 mg, 0.25 mmol) in methanol (1 mL) was added dropwise at room temperature under stirring a 4 mol/L solution (0.15 mL) of hydrochloric acid in ethyl acetate. The solvent was distilled off under reduced pressure. The residue was recrystallized from methanol-diethyl ether to yield the title compound as a colorless crystalline powder (71.9 mg, 63.7%).

reactant | 6-(3-fluoro-4-methylphenyl)-2-isobutyl-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one | 0.25 mmol, 94.4 mg | FC=1C=C(C=CC1C)C=1C=C(C(N(N1)CC(C)C)=O)CN1CCN(CC1)C | C21H29FN4O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(3-fluoro-4-methylphenyl)-2-isobutyl-4-(4-methyl-1-piperazinyl)methyl-2H-pyridazin-3-one dihydrochloride | 71.9 mg, 63.7% | Cl.Cl.FC=1C=C(C=CC1C)C=1C=C(C(N(N1)CC(C)C)=O)CN1CCN(CC1)C | InChI=1S/C21H29FN4O.2ClH/c1-15(2)13-26-21(27)18(14-25-9-7-24(4)8-10-25)12-20(23-26)17-6-5-16(3)19(22)11-17;;/h5-6,11-12,15H,7-10,13-14H2,1-4H3;2*1H
